US05290798
Step 1: Methyl 3-[1-(4-chlorobenzyl)-3-(t-butylthio)-5-(2-methylthiazol-4-ylmethoxy)indol-2-yl]-2,2-dimethylpropanoate
A solution of methyl 3-[1-(4-chlorobenzyl)-3-(t-butylthio)-5-hydroxyindol-2-yl]-2,2-dimethylpropanoate (Preparation 2) (25 g), 4-chloromethyl-2-methylthiazole hydrochloride (Maybridge Chemical Co., Ltd.) (11.6 g) and Cs2CO3 (68.7 g) in 250 mL of CH3CN were heated at reflux for 24 hours. The mixture was cooled, poured onto water, and extracted (2× EtOAc), washed twice with brine, dried (MgSo4), and evaporated. Chromatography of the residue on silica gel eluting with hexane/EtOAc 4:1 afforded the title compound as a solid.

reactant | methyl 3-[1-(4-chlorobenzyl)-3-(t-butylthio)-5-hydroxyindol-2-yl]-2,2-dimethylpropanoate | 25 g | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)O)SC(C)(C)C)CC(C(=O)OC)(C)C)C=C1 | C25H30ClNO3S
reactant | 4-chloromethyl-2-methylthiazole hydrochloride | 11.6 g | Cl.ClCC=1N=C(SC1)C
reactant | Cs2CO3 | 68.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | CH3CN | 250 mL | CC#N | C2H3N
product | Methyl 3-[1-(4-chlorobenzyl)-3-(t-butylthio)-5-(2-methylthiazol-4-ylmethoxy)indol-2-yl]-2,2-dimethylpropanoate | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OCC=2N=C(SC2)C)SC(C)(C)C)CC(C(=O)OC)(C)C)C=C1 | C30H35ClN2O3S2
